US06028195
2-({[4-(3,5-Dimethoxyphenyl)piperazino]carbonyl}-2-methoxy-4,5-dimethylanilino)acetic acid
Ethyl 2-({[4-(3,5-dimethoxyphenyl)piperazino]carbonyl}-2-methoxy-4,5-dimethylanilino)acetate(200 mg, 0.41 mmole) was dissolved in dioxane:distilled water(4:1, 15 ml), lithium hydroxide monohydrate(50.7 mg, 1.23 mmol) was added thereto, and then the resulting mixture was stirred at room temperature for 3 hours, acidified with 1N-hydrochloric acid, extracted with ethylacetate, filtered to dryness, concentrated under the reduced pressure to remove the used solvent, and purified by column chromatography(ethylacetate:hexane=1:2) to obtain the titled compound.

reactant | Ethyl 2-({[4-(3,5-dimethoxyphenyl)piperazino]carbonyl}-2-methoxy-4,5-dimethylanilino)acetate | 0.41 mmole, 200 mg | COC=1C=C(C=C(C1)OC)N1CCN(CC1)C(=O)N(C1=C(C=C(C(=C1)C)C)OC)CC(=O)OCC | C26H35N3O6
reactant | water | 15 ml | O | H2O
reactant | lithium hydroxide monohydrate | 1.23 mmol, 50.7 mg | O.[OH-].[Li+]
reactant | hydrochloric acid | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-({[4-(3,5-Dimethoxyphenyl)piperazino]carbonyl}-2-methoxy-4,5-dimethylanilino)acetic acid | yield: 80% | COC=1C=C(C=C(C1)OC)N1CCN(CC1)C(=O)N(C1=C(C=C(C(=C1)C)C)OC)CC(=O)O | C24H31N3O6
